US05688792
(S)-N-[[3-[3-fluoro-4-[1-[(p-toluenesulfonyl)imino]thiomorpholin-4-yl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
The N-[[3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (213 mg, 0.603 mmol) was dissolved in dry CH2Cl2 (11.5 mL) and then treated with hexadecyl-tributylphosphonium bromide (138 mg, 0.271 mmol). To this clear, colorless solution, the chloramine-T (165 mg, 0.723 mmol) was added. The resultant cloudy solution was stirred at room temperature for three hours. At this time, the reaction was determined to be complete by TLC (10% MeOH/CHCl3, UV short wave). The reaction mixture was transferred to a separatory funnel and diluted with CH2 Cl2 (10 mL). This solution was washed with cold 5% NaOH (20 mL), water (20 mL), and brine (20 mL). The aqueous portions were combined and then back-extracted with more CH2Cl2 (3×20 mL). The organic layers were combined, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The resultant material was chromatographed on silica gel (100 g), eluting with a gradient of 0-6% MeOH in 10% CH3CN/CHCl3 to give 314 mg (99%) of the title compound as a white solid which decomposes at 79° C. and has a HRMS (FAB) calculated for C23H28FN4O5S2 (M+H)+, 523.1485, found 523.1477.

reactant | N-[[3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.603 mmol, 213 mg | FC=1C=C(C=CC1N1CCSCC1)N1C(OC(C1)CNC(C)=O)=O | C16H20FN3O3S
reactant | chloramine-T | 0.723 mmol, 165 mg | CC=1C=CC(=CC1)S(=O)(=O)NCl | C7H8ClNO2S
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | CH2Cl2 | 11.5 mL | C(Cl)Cl | CH2Cl2
catalyst | hexadecyl-tributylphosphonium bromide | 0.271 mmol, 138 mg | [Br-].C(CCCCCCCCCCCCCCC)[P+](CCCC)(CCCC)CCCC
solvent | Cl2 | 10 mL | ClCl | Cl2
product | (S)-N-[[3-[3-fluoro-4-[1-[(p-toluenesulfonyl)imino]thiomorpholin-4-yl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 314 mg, 99% | FC=1C=C(C=CC1N1CCS(CC1)=NS(=O)(=O)C1=CC=C(C=C1)C)N1C(O[C@H](C1)CNC(C)=O)=O | C23H27FN4O5S2
